US07494964B2
4,4″-Bis(4-methylpiperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-one (Ligand L3)
A mixture of 10.89 g (34.2 mmol) of 4,4″-dichloro-1′H-[2,2′;6′,2″]terpyridin-4′-one, 68.6 g (685 mmol, 76.1 ml) of 1-methylpiperazine and 233 mg (1.71 mmol, 0.05 equivalent) of zinc(II) chloride in 200 ml of 2-methyl-2-butanol is boiled under reflux for 24 hours. The mixture is evaporated to dryness on a rotary evaporator. The crude product is recrystallized from ethyl acetate/methanol 33:1 (v/v). It is taken up in 100 ml of water, adjusted to pH=8-9 with 4N sodium hydroxide solution, and light-beige 4,4″-bis(4methylpiperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-one is filtered off. 1H-NMR (360 MHz, CDCl3): 8.32 (d, 2H, J=5.9 Hz); 7.18 (dm, 2H); 6.93 (s, 2H); 6.66 (dd, 2H; J=5.9,2.3 Hz); 3.41-3.32 (tm, 8H); 2.55-2.44 (tm, 8H); 2.29 (s, 6H).

reactant | 4,4″-dichloro-1′H-[2,2′;6′,2″]terpyridin-4′-one | 34.2 mmol, 10.89 g | ClC1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)Cl | C15H9Cl2N3O
reactant | 1-methylpiperazine | 685 mmol, 76.1 ml, 68.6 g | CN1CCNCC1 | C5H12N2
solvent | 2-methyl-2-butanol | 200 ml | CC(C)(CC)O | C5H12O
catalyst | zinc(II) chloride | 1.71 mmol, 233 mg, 0.05 equivalent | [Cl-].[Zn+2].[Cl-]
product | 4,4″-Bis(4-methylpiperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-one | CN1CCN(CC1)C1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)N1CCN(CC1)C | C25H31N7O
